US06288061B1
tert-Butyl 2-hydroxyimino-3-oxo-3-(4-pyridyl)propionate and 4-methylbenzylamine were dissolved in acetonitrile (80 ml). The mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 5 to give tert-butyl 2-(4-methylphenyl)-5-(4-pyridyl)imidazole-4-carboxylate.

reactant | tert-Butyl 2-hydroxyimino-3-oxo-3-(4-pyridyl)propionate | ON=C(C(=O)OC(C)(C)C)C(C1=CC=NC=C1)=O | C12H14N2O4
reactant | 4-methylbenzylamine | CC1=CC=C(CN)C=C1 | C8H11N
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | tert-butyl 2-(4-methylphenyl)-5-(4-pyridyl)imidazole-4-carboxylate | CC1=CC=C(C=C1)C=1NC(=C(N1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C20H21N3O2
